US04492702
(B) Methyl 2-phenylamino-3-pyrazine carboxylate
A mixture of 9.5 g. of methyl 2-bromo-3-pyrazine carboxylate, 8.2 g. of aniline, 0.5 g. of p-toluene sulfonic acid and 100 ml. of water is stirred and refluxed for two hours. The reaction mixture is poured on ice, extracted with ethyl acetate, the organic extracts are dried and concentrated to yield an oil. The crude residue is eluted on a silica gel column with ethylacetate-hexane (1:2) yielding the product of this example as a yellow solid, m.p. 72°-75° C.

reactant | methyl 2-bromo-3-pyrazine carboxylate | BrC1=NC=CN=C1C(=O)OC | C6H5BrN2O2
reactant | aniline | NC1=CC=CC=C1 | C6H7N
reactant | p-toluene sulfonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | water | O | H2O
product | Methyl 2-phenylamino-3-pyrazine carboxylate | C1(=CC=CC=C1)NC1=NC=CN=C1C(=O)OC | C12H11N3O2
